US04927838
As in Example 114, (E)-3-[7-methoxy-1-(3-methoxyphenyl)-2-naphthalenyl]-2-propenoic acid 4-nitrophenyl ester (1.2 g) was reacted with 3-pyridinebutanamine (0.46 g) in tetrahydrofuran (12 mL) for 2 hours at room temperature. The crude product, isolated in the usual manner was purified by using HPLC (ethyl acetate) and then was crystallized from diethyl ether to yield 0.83 g of (E)-3-[7-methoxy-1-(3-methoxyphenyl)-2-naphthalenyl]-N-[4-(3-pyridinyl)butyl]-2-propenamide, mp 108.5°-110° C. Anal. Calcd for C30H30N2O3O.15 H2O: C, 76.78; H, 6.51; N, 5.97; H2O, 0.57 Found: C, 76.68; H, 6.51; N, 6.04; H2O, 0.57

reactant | (E)-3-[7-methoxy-1-(3-methoxyphenyl)-2-naphthalenyl]-2-propenoic acid 4-nitrophenyl ester | 1.2 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C1=C(C2=CC(=CC=C2C=C1)OC)C1=CC(=CC=C1)OC)=O | C27H21NO6
reactant | 3-pyridinebutanamine | 0.46 g | N1=CC(=CC=C1)CCCCN | C9H14N2
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | (E)-3-[7-methoxy-1-(3-methoxyphenyl)-2-naphthalenyl]-N-[4-(3-pyridinyl)butyl]-2-propenamide | 0.83 g | COC1=CC=C2C=CC(=C(C2=C1)C1=CC(=CC=C1)OC)/C=C/C(=O)NCCCCC=1C=NC=CC1 | C30H30N2O3
